US06566367B2
Stir 2-chloro-5-trifluoromethylsulfonyl-1H-benzimidazole (185 mg) and spiro[isobenzofuran-1,4′-piperidin]-3-one (263 mg) in dimethylacetamide (6 mL) at 195° C. for 1 hour. Cool the mixture and partition between EtOAc and half-saturated NaHCO3, wash several times with water, dry and concentrate in vacuo. Purify the residue by chromatography (1:1 hexanes/EtOAc) to obtain 1′-(5-trifluoromethylsulfonyl-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one.

reactant | 2-chloro-5-trifluoromethylsulfonyl-1H-benzimidazole | 185 mg | ClC1=NC2=C(N1)C=CC(=C2)S(=O)(=O)C(F)(F)F | C8H4ClF3N2O2S
reactant | spiro[isobenzofuran-1,4′-piperidin]-3-one | 263 mg | N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C12H13NO2
solvent | dimethylacetamide | 6 mL | CC(=O)N(C)C | C4H9NO
product | 1′-(5-trifluoromethylsulfonyl-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | FC(S(=O)(=O)C1=CC2=C(NC(=N2)N2CCC3(CC2)OC(C2=CC=CC=C23)=O)C=C1)(F)F | C20H16F3N3O4S
